US07786231B2
Preparation of 5-norbornene-2-carboxylic acid methylester
DCPD (dicyclopentadiene, Aldrich, 256.5 mL, 1.9 mol), methylacrylate (Aldrich, 405 mL, 4.5 mol) and hydroquinone (3.2 g, 0.03 mol) were charged into a 2 L high-pressure autoclave, and the temperature was raised to 220° C. The resulting mixture was reacted for 5 hours with stirring at 300 rpm. After the reaction was completed, the reaction mixture was cooled and transferred to a distilling apparatus. The reaction mixture was distilled under a reduced pressure (1 torr) using a vacuum pump to yield the title compound at 50° C. (yield: 57.6%, exo/endo=58/42).

reactant | DCPD | 1.9 mol, 256.5 mL | C1C=CC2C1[C@H]3C[C@@H]2C=C3 | C10H12
reactant | methylacrylate | 4.5 mol, 405 mL | COC(C=C)=O | C4H6O2
reactant | hydroquinone | 0.03 mol, 3.2 g | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 5-norbornene-2-carboxylic acid methylester | yield: 57.6% | COC(=O)C1C2C=CC(C1)C2 | C9H12O2
